US04255332
Lithium clavulanate (5.6 gm, estimated purity 88.8% pfa 0.025 M) was dissolved in water (45 mls) and the resulting pale-red-brown solution was cooled in an ice bath. Tripotassium orthophosphate (10.1 mls of 1 M solution, 1.2 equivalents) was added in one lot and methanol (18 mls) added over 1/2 hr with a small quantity of lithium phosphate (ca. 1 mg) for seeding. As lithium phosphate separated out the pH dropped from 8.7 to about 7.5. Acetone was added over 3/4 hr to 800 mls. The material that separated out was quite orange-brown at this point and the supernatant a very pale yellow. Celite (2 g) filtration gave a clear solution which was added to acetone (1750 mls) with vigorous stirring over 1 hr. The white solid was filtered off leaving a very pale yellow filtrate. Washing with acetone (3×50 ml) and fluid bed drying gave potassium clavulanate (4.1 g, 84% pfa, 69% recovery).

reactant | Lithium clavulanate | 0.025 M, 5.6 gm | [Li+].C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-]
reactant | Tripotassium orthophosphate | 1 M, 10.1 mls, 1.2 equivalents | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | methanol | 18 mls | CO | CH4O
reactant | lithium phosphate | ca. 1 mg | P(=O)([O-])([O-])[O-].[Li+].[Li+].[Li+]
solvent | water | 45 mls | O | H2O
solvent | acetone | 1750 mls | CC(=O)C | C3H6O
product | potassium clavulanate | 4.1 g | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+] | InChI=1S/C8H9NO5.K/c10-2-1-4-7(8(12)13)9-5(11)3-6(9)14-4;/h1,6-7,10H,2-3H2,(H,12,13);/q;+1/p-1/b4-1-;/t6-,7-;/m1./s1
